US07691869B2
To a solution of the title D compound of Example 1, 2-{5-amino-2-(furan-2-yl)-7H-pyrrolo[3,2-e][1,2,4]triazolo[1,5-c]pyrimidin-7-yl}ethyl methanesulfonate (0.06 g, 0.165 mmol) in dry DMF (5 mL), 2,4-difluoroaniline (0.33 mmol) and 0.06 mL of DIEA are added, and the solution is stirred at 100° C. for 5 h. The reaction mixture is cooled to RT, and the solvent is removed under reduced pressure. The crude product is purified by HPLC to give 7-(2-(2,4-difluorophenylamino)ethyl)-2-(furan-2-yl)-7H-pyrrolo[3,2-e][1,2,4]triazolo[1,5-c]pyrimidin-5-amine: LC/MS (M+1=396.53).

reactant | 2-{5-amino-2-(furan-2-yl)-7H-pyrrolo[3,2-e][1,2,4]triazolo[1,5-c]pyrimidin-7-yl}ethyl methanesulfonate | 0.165 mmol, 0.06 g | CS(=O)(=O)OCCN1C=CC=2C=3N(C(=NC21)N)N=C(N3)C=3OC=CC3 | C14H14N6O4S
reactant | 2,4-difluoroaniline | 0.33 mmol | FC1=C(N)C=CC(=C1)F | C6H5F2N
reactant | DIEA | 0.06 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 7-(2-(2,4-difluorophenylamino)ethyl)-2-(furan-2-yl)-7H-pyrrolo[3,2-e][1,2,4]triazolo[1,5-c]pyrimidin-5-amine | FC1=C(C=CC(=C1)F)NCCN1C=CC=2C=3N(C(=NC21)N)N=C(N3)C=3OC=CC3 | C19H15F2N7O
